US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-chloro-3-(4-pyridyloxy)-benzaldehyde dimethyl acetal in an analogous manner to that described in Example 1 gave 9-[4-chloro-3-(4-pyridyloxy)-phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide water gave a yellow crystalline solid of melting point 242-244° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-chloro-3-(4-pyridyloxy)-benzaldehyde dimethyl acetal | COC(C1=CC(=C(C=C1)Cl)OC1=CC=NC=C1)OC | C14H14ClNO3
product | 9-[4-chloro-3-(4-pyridyloxy)-phenyl]-3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-1,8(2H,5H)-acridinedione | ClC1=C(C=C(C=C1)C1C=2C(CC(CC2NC=2CC(CC(C12)=O)(C)C)(C)C)=O)OC1=CC=NC=C1 | C28H29ClN2O3
